US06897013B2
(2) Synthesis of mono (2-ethylhexyl) mono(2,2,3,3,4,4,4-hepta-fluorobutyl) Maleate
2,2,3,3,4,4,4-Heptafluorobutanol (66.8 g, 0.334 mol) and pyridine (29.6 mL, 0.367 mol) were dissolved in acetonitrile (180 mL) and added with mono(2-ethylhexyl) maleate chloride (90.6 g, 0.367 mol), while-the internal temperature was maintained at 20° C. or lower on an ice bath. After completion of the addition, the reaction mixture was stirred at room temperature for 1 hour and added with ethyl acetate (1000 mL). The organic phase was washed with 1 mol/L aqueous hydrochloric acid and a saturated sodium chloride aqueous solution. Then, the organic phase was collected, the organic solvent was evaporated under reduced pressure, and residue was purified by silica gel column chromatography (hexane/chloroform=10/0 to 7/3 (v/v)) to obtain the target compound (80.3 g, yield: 59%) as a colorless transparent oily compound.

reactant | 2,2,3,3,4,4,4-Heptafluorobutanol | 0.334 mol, 66.8 g | FC(CO)(C(C(F)(F)F)(F)F)F | C4H3F7O
reactant | pyridine | 0.367 mol, 29.6 mL | N1=CC=CC=C1 | C5H5N
reactant | mono(2-ethylhexyl) maleate chloride | 0.367 mol, 90.6 g | [Cl-].C(\C=C/C(=O)[O-])(=O)OCC(CCCC)CC
reactant | ethyl acetate | 1000 mL | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 180 mL | C(C)#N | C2H3N
product | mono (2-ethylhexyl) mono(2,2,3,3,4,4,4-hepta-fluorobutyl) Maleate | 80.3 g, yield: 59% | C(\C=C/C(=O)OCC(C(C(F)(F)F)(F)F)(F)F)(=O)OCC(CCCC)CC | C16H21F7O4
